US05183921
To E-α-hydroxyimino-2-(4-methylphenoxy)phenylacetic acid methyl ester (1.00 g, 0.0035 mole) were added methanol (3.5 ml), water (3.5 ml), sodium hydroxide (0.31 g, 0.0077 mole) and the mixture was heated under reflux for one hour. After cooling to room temperature, the resultant was adjusted to pH 1 with 5% of hydrochloric acid. After stirring at room temperature, the crystals were filtered off and washed with water to obtain colorless crystals of E-α-hydroxyimino-2-(4-methylphenoxy)phenylacetic acid (0.90 g, yield: 94.7%).

reactant | E-α-hydroxyimino-2-(4-methylphenoxy)phenylacetic acid methyl ester | 0.0035 mole, 1.00 g | COC(/C(=N/O)/C1=C(C=CC=C1)OC1=CC=C(C=C1)C)=O | C16H15NO4
reactant | methanol | 3.5 ml | CO | CH4O
reactant | sodium hydroxide | 0.0077 mole, 0.31 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 3.5 ml | O | H2O
product | E-α-hydroxyimino-2-(4-methylphenoxy)phenylacetic acid | 0.90 g, yield: 94.7% | O\N=C(\C(=O)O)/C1=C(C=CC=C1)OC1=CC=C(C=C1)C | C15H13NO4
